US04472579
To a 120 ml of anhydrous dimethyl sulfoxide (DMSO), 6.32 g of 1-(2-chloroethyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester and 2.89 g of 1,8-diazabicyclo[5,4,0]-7-undecene were added and the mixture was heated at 84°-89° C. for 2 hrs. The reaction mixture was concentrated in vacuo and the residue was dissolved in chloroform. The chloroform layer was washed with water and dried. The residue obtained through evaporation of chloroform was recrystallized from ethyl ether to give 3.66 g (65.1% yield) of 1-vinyl-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester. mp: 146°-149° C.

reactant | 1-(2-chloroethyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 6.32 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)Cl)CCCl | C14H12Cl2FNO3
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 2.89 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
product | 1-vinyl-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 3.66 g, 65.1% yield | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)Cl)C=C | C14H11ClFNO3
